US05334371
(a) 4-Benzyloxymethyl-3,6,9,15-tetraazabicyclo[9.3.1]-pentadeca-1(15), 11,13-triene-3,6,9-triacetic Acid
A solution of 10 g (=24.36 mmol) of 4-hydroxymethyl-3,6,9,15-tetraazabicyclo[9.3.1]pentadeca-1(15),11,13-triene-3,6,9-triacetic acid (prepared according to Example 7(b) in 150 ml of dimethylformamide is combined with 0.5 g of potassium iodide, 4.17 g of benzyl bromide, and 5 g of sodium carbonate. The mixture is heated for 20 hours to 60° C., concentrated under vacuum, combined with 100 ml of water and 300 ml of ethanol, and the pH is set at 2 by addition of concentrated hydrochloric acid. The mixture is suctioned off from the precipitate, the precipitate is dissolved in 100 ml of water, and the solution is passed over a column with 50 g of "Reillex" (poly-4-vinylpyridine). The column is washed with 50 ml of water and the combined aqueous phases are subjected to freeze-drying, thus obtaining 8 g of the title compound as an amorphous powder.

reactant | 4-hydroxymethyl-3,6,9,15-tetraazabicyclo[9.3.1]pentadeca-1(15),11,13-triene-3,6,9-triacetic acid | 24.36 mmol, 10 g | OCC1N(CC=2C=CC=C(CN(CCN(C1)CC(=O)O)CC(=O)O)N2)CC(=O)O | C18H26N4O7
reactant | potassium iodide | 0.5 g | [I-].[K+]
reactant | benzyl bromide | 4.17 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium carbonate | 5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 4-Benzyloxymethyl-3,6,9,15-tetraazabicyclo[9.3.1]-pentadeca-1(15), 11,13-triene-3,6,9-triacetic Acid | 8 g | C(C1=CC=CC=C1)OCC1N(CC=2C=CC=C(CN(CCN(C1)CC(=O)O)CC(=O)O)N2)CC(=O)O | C25H32N4O7
